US07470795B2
Synthesis of (R)-2-amino-2-(4-trifluoromethoxybenzyl)-N-(3,5-dichlorophenyl)propionamide
To a solution of (2S,5R)-3-(3,5-dichloro-phenyl)-2-isopropyl-5-methyl-1-(2,2,2-trifluoro-acetyl)-imidazolidin-4-one (50.0 g, 130.0 mmol) and 4-trifluoromethoxybenzyl bromide (33.94 g, 133.0 mmol) in THF (200 mL) was added lithium bis(trimethylsilyl)amide (136.5 mL of 1.0 M solution in THF, 136.5 mmol) at 0° C. over 20 min keeping the internal temperature below 0° C. The resulting mixture was stirred at for 30 min. 10% Aqueous ammonium chloride (160 mL) and EtOAc (100 mL) were added. The layers were separated and the organic layer was concentrated to dryness. To the residue was added 2-propanol (250 mL) and potassium hydroxide (9.89 g, 176 mmol), and the mixture was heated at 50° C. for 4 h. 3 M H2SO4 (32 mL) was then added and the mixture was heated at 70° C. for 2 h. 2-Propanol was distilled and isopropyl acetate (200 mL) was added. The organic solution was washed with 2 N NaOH (200 mL) and water (150 mL) and then concentrated to dryness. Acetonitrile (150 mL) was added to the residue followed by 4-toluenesulfonic acid monohydrate (25.9 g, 136.5 mmol). The mixture was stirred at room temperature for 10 h. The title compound was collected by filtration (69.3 g, 92%), mp>200° C. 1H NMR (400 MHz, (D3C)2SO) δ 10.44 (s, 1H, ArNH), 8.30 (bs, 2H, NH2), 7.71 (d, J=1.6 Hz, 2H, ArH), 7.51 (ABq, J=6.4 Hz, 2H, ArH), 7.37 (t, J=1.6 Hz, 1H, ArH), 7.30 (ABq, J=7.4 Hz, 2H, ArH), 7.28 (ABq, J=7.4 Hz, 2H, ArH), 7.11 (ABq, J=6.4 Hz, 2H, ArH), 3.40 (ABq, J=14.0, 1H. ArCH2), 3.20 (ABq, J=14.0 Hz, ArCH2), 2.27 (s, 3H, CH3), 2.27 (s, 3H, CH3), 1.66 (s, 3H, CH3); MS: m/z 406 (M+); Anal. calcd for C24H23Cl2F3N2O5S: C, 49.75; H, 4.00; Cl, 12.24; N, 4.88. Found: C, 49.87; H, 3.99; Cl, 12.40; N, 4.84.

reactant | (2S,5R)-3-(3,5-dichloro-phenyl)-2-isopropyl-5-methyl-1-(2,2,2-trifluoro-acetyl)-imidazolidin-4-one | 130.0 mmol, 50.0 g | ClC=1C=C(C=C(C1)Cl)N1[C@H](N([C@@H](C1=O)C)C(C(F)(F)F)=O)C(C)C | C15H15Cl2F3N2O2
reactant | 4-trifluoromethoxybenzyl bromide | 133.0 mmol, 33.94 g | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | lithium bis(trimethylsilyl)amide | 136.5 mmol, 1.0 M, 136.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ammonium chloride | 160 mL | [Cl-].[NH4+]
reactant | potassium hydroxide | 176 mmol, 9.89 g | [OH-].[K+]
reactant | H2SO4 | 3 M, 32 mL | OS(=O)(=O)O | H2O4S
reactant | 4-toluenesulfonic acid monohydrate | 136.5 mmol, 25.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | 2-propanol | 250 mL | CC(C)O | C3H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-2-amino-2-(4-trifluoromethoxybenzyl)-N-(3,5-dichlorophenyl)propionamide | N[C@](C(=O)NC1=CC(=CC(=C1)Cl)Cl)(C)CC1=CC=C(C=C1)OC(F)(F)F | C17H15Cl2F3N2O2
